US08440662B2
Step 2: methyl 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carboxylate
To a 100 mL flask, 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carbaldehyde (0.6 g, 0.0017 mol) in MeOH (60 mL) was added and cooled to 0° C. To the reaction flask, manganese (IV) oxide (0.74 g, 0.0085 mol) and sodium cyanide (0.429 g, 0.0085 mol) were added at 0° C. The reaction mixture was stirred at 25° C. for 3 h. The reaction mixture was diluted with chloroform and filtered through a pad of Celite® reagent. The filtrate was washed with water, brine, dried over anhydrous sodium sulfate and evaporated under reduced pressure to get the title compound as a solid [0.52 g, 79%]. 1H NMR (300 MHz, CDCl3): δ 8.18 (s, 1H), 7.87-7.86 (m, 2H), 7.29 (d, J=3.6 Hz, 1H), 6.95 (d, J=3.6 Hz, 1H), 3.93 (s, 3H), 3.89 (s, 8H). LC-MS (ESI): Calculated mass: 373.1; Observed mass: 374.1 (RT: 1.57 min).

reactant | 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carbaldehyde | 0.0017 mol, 0.6 g | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C1=CC=C(O1)C=O | C17H14ClN3O3
reactant | sodium cyanide | 0.0085 mol, 0.429 g | [C-]#N.[Na+]
reactant | MeOH | 60 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese (IV) oxide | 0.0085 mol, 0.74 g | [O-2].[Mn+4].[O-2]
product | methyl 5-(2-chloro-4-morpholino-quinazolin-7-yl)furan-2-carboxylate | 0.52 g, 79% | ClC1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C1=CC=C(O1)C(=O)OC | C18H16ClN3O4
